Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
shrimp
 
Attending: ___
 
Chief Complaint:
Abdominal pain 
 
Major Surgical or Invasive Procedure:
Drain placement 

 
History of Present Illness:
Patient is a ___ male who is s/p RALP with extended bilateral
pelvic lymph node dissection on ___ for high risk prostate
cancer. He had an unremarkable post-operative course but
complained of ongoing abdominal "fullness" since the time of his
surgery. Over the last several days he has been experiencing
fevers up to 101 at home and worsening RLQ abdominal pain. This
prompted an evaluation including CT abdomen/pelvis demonstrating
a lymphocele in the right pelvis measuring up to 9cm. He was
recommended to present to the ER for further evaluation.

Aside from pain and chills he is otherwise feeling well. No
nausea/vomiting/diarrhea. Tolerating po intake.
 
Past Medical History:
Liver disease
Hypogonadism
GERD
 
Social History:
___
Family History:
Father - died of esophageal cancer at age ___.
Maternal aunt - breast cancer in her ___.
Denies other family history of malignancy. He has 4 siblings.
 
Physical Exam:
GEN -- NAD
Abd -- SNT
Drain in place and draining serous yellow fluid 
Urine -- No foley catheter at this time 
 
Pertinent Results:
___ 06:29AM BLOOD WBC-6.9 RBC-3.16* Hgb-9.2* Hct-27.7* 
MCV-88 MCH-29.1 MCHC-33.2 RDW-12.4 RDWSD-39.7 Plt ___
___ 08:11PM BLOOD WBC-10.7* RBC-3.77* Hgb-10.9* Hct-33.2* 
MCV-88 MCH-28.9 MCHC-32.8 RDW-12.6 RDWSD-40.3 Plt ___
___ 08:11PM BLOOD Neuts-77.6* Lymphs-9.3* Monos-10.4 
Eos-2.0 Baso-0.3 Im ___ AbsNeut-8.32* AbsLymp-0.99* 
AbsMono-1.11* AbsEos-0.21 AbsBaso-0.03
___ 12:34PM BLOOD Neuts-74.2* Lymphs-12.8* Monos-9.5 
Eos-2.9 Baso-0.4 Im ___ AbsNeut-5.95 AbsLymp-1.03* 
AbsMono-0.76 AbsEos-0.23 AbsBaso-0.03

 
Brief Hospital Course:
Mr. ___ was admitted from the ED to the Urology service with 
a known lymphocele with possible infection. ___ was consulted for 
drain placement. On HD#1, a pigtail drain was placed without 
complication. He also was continued on IV Vancomycin and 
Cefepime for broad coverage. The gram stain from specimen taken 
at the time of drainage demonstrated gram + cocci. The culture 
was pending at the time of discharge. On HD#2, he remained 
afebrile, was tolerating a regular diet, and his pain was 
well-controlled. At that time, it was felt that he was stable 
for discharge as he had been afebrile for > 24 hours. He was 
transitioned to Bactrim at the time of DC and will be continued 
for 14 days. The patient was instructed to record the drain out 
put daily and ___ services were also coordinated. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO/NG BID 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth every 12 hours Disp #*28 Tablet Refills:*0 
2.  Multivitamins 1 TAB PO DAILY  
3.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Lymphocele

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
- Please measure drain output daily and record. Bring the drain 
output record to your next appointment. Drain will likely be 
removed when the output is < 30 cc per day. 

-ALWAYS follow-up with your referring provider ___ your PCP 
to discuss and review your post-operative course and 
medications.  Any NEW medications should also be reviewed with 
your pharmacist.

-You may take ibuprofen and tylenol together for pain control.

-The maximum dose of Tylenol (ACETAMINOPHEN) is 3- 4 grams (from 
ALL sources) PER DAY.

-Ibuprofen should always be taken with food. If you develop 
stomach pain or note black stool, stop the Ibuprofen.  Ibuprofen 
works best when taken “around the clock.”

-For your safety and the safety of others; PLEASE DO NOT drive, 
operate dangerous machinery, or consume alcohol while taking 
narcotic pain medications. 

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-You may be given “prescriptions” for a stool softener ___ a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-___ medical attention for fevers (temp>101.5), worsening pain, 
drainage or excessive
bleeding from incision, chest pain or shortness of breath.

-resume regular home diet and remember to drink plenty of fluids 
to keep hydrated and to minimize risk of constipation. For the 
first few days at home, you should eat SMALL PORTIONS.  Avoid 
high fat, bulky or fried foods. 

-___ medical attention for fevers (temp>101.5), worsening pain, 
drainage or excessive
bleeding from incision, chest pain or shortness of breath.

 
Followup Instructions:
___